US04792628
9.3 Grams of 4-methyl-7-hydroxy-1-indanone and 30 g of N-hydroxymethyl-α-chloroacetamide were dissolved by adding 280 ml of concentrated sulfuric acid under a cooling condition. After the mixture was allowed to stand overnight, the mixture was poured into ice-water. The crystals formed in the mixture were collected by filtration and were recrystallized from ethanol to obtain 49 g of 4-methyl-6-α-chloroacetylaminomethyl-7-hydroxy-1-indanone.

reactant | 4-methyl-7-hydroxy-1-indanone | CC1=C2CCC(C2=C(C=C1)O)=O | C10H10O2
reactant | N-hydroxymethyl-α-chloroacetamide | 30 g | OCNC(CCl)=O | C3H6ClNO2
solvent | sulfuric acid | 280 ml | S(O)(O)(=O)=O | H2O4S
product | 4-methyl-6-α-chloroacetylaminomethyl-7-hydroxy-1-indanone | 49 g | CC1=C2CCC(C2=C(C(=C1)CNC(CCl)=O)O)=O | C13H14ClNO3
